US03993679
a. 4-Chloro-3,5-diaminobenzonitrile
To a solution of 352.5 grams (1.56 mole) of stannous chloride dihydrate in 860 ml. of concentrated hydrochloric acid is added 50 gm. (0.2195 mole) of 4-chloro-3,5-dinitrobenzonitrile. The mixture is stirred at room temperature for 2 hours and cooled to 0° in an ice-salt bath. A cold solution of 50% sodium hydroxide is added to the mixture until strongly basic. During the addition the temperature is kept below 30°.

reactant | hydrochloric acid | Cl | ClH
reactant | 4-chloro-3,5-dinitrobenzonitrile | 0.2195 mole | ClC1=C(C=C(C#N)C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H2ClN3O4
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-Chloro-3,5-diaminobenzonitrile | ClC1=C(C=C(C#N)C=C1N)N | C7H6ClN3
